US07759405B2
500 g of a mixture of pentaerythritol tetraacrylate and pentaerythritol triacrylate containing 50 to 55% by weight of pentaerythritol triacrylate was added to a 4-neck round bottom flask, and 200 ppm of p-methoxy phenol as a polymerization inhibitor was added thereto. After stirring the resulting mixture for 30 min at room temperature, 100 ppm of dibutyltindilaurylate was added thereto, and the mixture was heated to 70° C. 1 eq. of 1,6-hexamethylene diisocyanate trimer (TKA-100P, Aasahi kasei) was added dropwise thereto and the resulting mixture was reacted for 5 hours. After confirming that the isocyanate group was disappeared by infrared spectrophotometer, the resulting mixture was cooled to 50° C. and 10% by weight of methyl isobutyl ketone based on the total weight of the composition was added to the resulting mixture to obtain a low viscosity multifunctional urethane acrylate oligomer having a viscosity of 13,000 cps (Brookfield DV-II) at 25° C.

reactant | pentaerythritol tetraacrylate | C(C=C)(=O)OCC(COC(C=C)=O)(COC(C=C)=O)COC(C=C)=O | C17H20O8
reactant | pentaerythritol triacrylate | C(C=C)(=O)OCC(COC(C=C)=O)(COC(C=C)=O)CO | C14H18O7
reactant | p-methoxy phenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | 1,6-hexamethylene diisocyanate | 1 eq. | C(CCCN=C=O)CCN=C=O | C8H12N2O2
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | urethane acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
